US09334246B2
Dissolved 3-aminobenzonitrile (1.5 g, 12.7 mmol) in anhydrous dioxane (42 mL) under N2. Added phthalic anhydride (2.54 g, 17.1 mmol). Affixed Dean-Stark trap and refluxed for 16 h. Cooled to 0° C. and filtered off solid (2-((3-cyanophenyl)carbamoyl)benzoic acid). Concentrated filtrate to afford 3-(1,3-dioxoisoindolin-2-yl)benzonitrile (1.6 g) as a white solid. MS, calc'd=248.06. Obsv'd m/z: 248.91 (M+1).

reactant | 3-aminobenzonitrile | 12.7 mmol, 1.5 g | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | phthalic anhydride | 17.1 mmol, 2.54 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | dioxane | 42 mL | O1CCOCC1 | C4H8O2
product | 3-(1,3-dioxoisoindolin-2-yl)benzonitrile | 1.6 g | O=C1N(C(C2=CC=CC=C12)=O)C=1C=C(C#N)C=CC1 | C15H8N2O2
